US07777047B2
N-[2-(5-{[1-(2-hydroxyethyl)-4,5-dihydro-1H-pyrazol-3-yl]methyl}-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide
A solution of N-methyl-N-{2-[5-(2-oxobut-3-en-1-yl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide (223 mg) and 2-hydroxyethylhydrazine (60 mg) in tetrahydrofuran (5 mL) was stirred at room temperature for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (146 mg, yield 58%) as a white amorphous solid from a fraction eluted with ethyl acetate. MS: 504 (MH+).

reactant | N-methyl-N-{2-[5-(2-oxobut-3-en-1-yl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 223 mg | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(C=C)=O | C20H19N3O3S3
reactant | 2-hydroxyethylhydrazine | 60 mg | OCCNN | C2H8N2O
reactant | Water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-[2-(5-{[1-(2-hydroxyethyl)-4,5-dihydro-1H-pyrazol-3-yl]methyl}-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 146 mg, yield 58% | OCCN1N=C(CC1)CC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C22H25N5O3S3
